US05536815
Preparation of Dicyclopropylmethyl Amine Hydrochloride.
To a solution of 4.48 g of dicyclopropylmethyl alcohol in 20 mL of CH2Cl2 was added 3.6 g of NaN3 followed by 10 g of CCl3CO2H. The resulting mixture was stirred at room temperature for 3 h, diluted with 50 mL of CH2Cl2, washed with NaHCO3 and NaCl solution. Drying over MgSO4 and removal of solvent gave an oil (which was examined by high field 1H NMR and shown to be contaminated by a small amount of ring-opening compound (less than 5%)) which was dissolved in a solution of 7 mL of toluene containing 2.5 g of hexadecyltributyl phosphonium bromide. To the solution was added 5 g of NaBH4 in 15 mL of H2O through a dropping funnel over 30 min. The mixture was stirred at 80° C. for 16 h, layers separated and the organic layer extracted with 10 % HCl. The pH of the aqueous solution was adjusted to 8-9 with NaOH and extracted with ether. After drying over MgSO4, HCl gas was bubbled through the solution and the amine hydrochloride salt which had precipitated was collected by filtration and recrystallized from ether/MeOH to give 1.8 g (35%) of the salt as white crystals, mp 250° C. dec.

reactant | dicyclopropylmethyl alcohol | 4.48 g | C1(CC1)C(C1CC1)O | C7H12O
reactant | NaN3 | 3.6 g | [N-]=[N+]=[N-].[Na+]
reactant | CCl3CO2H | 10 g | C(Cl)(Cl)(Cl)C(=O)O | C2HCl3O2
reactant | NaBH4 | 5 g | [BH4-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 7 mL, 2.5 g | C1(=CC=CC=C1)C | C7H8
catalyst | hexadecyltributyl phosphonium bromide | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | H2O | 15 mL | O | H2O
product | Dicyclopropylmethyl Amine Hydrochloride | 1.8 g, 35% | Cl.C1(CC1)C(C1CC1)N | InChI=1S/C7H13N.ClH/c8-7(5-1-2-5)6-3-4-6;/h5-7H,1-4,8H2;1H
